US08476286B2
D. Synthesis of (2-amino-5-methoxy-phenyl)-(4-isopropyl-phenyl)-methanone
A solution of 5.6 g (18.7 mmol) (4-isopropyl-phenyl)-(5-methoxy-2-nitro-phenyl)-methanone in 100 ml methanol is hydrogenated in the presence of 2 g Raney nickel at 5 bar for 5 h. The reaction mixture is filtered and the filtrate is evaporated. The residue is dissolved in ether and the product is precipitated by the addition of gaseous hydrochloric acid as its hydrochloride.

reactant | (4-isopropyl-phenyl)-(5-methoxy-2-nitro-phenyl)-methanone | 18.7 mmol, 5.6 g | C(C)(C)C1=CC=C(C=C1)C(=O)C1=C(C=CC(=C1)OC)[N+](=O)[O-] | C17H17NO4
solvent | methanol | 100 ml | CO | CH4O
catalyst | Raney nickel | 2 g | [Ni] | Ni
product | (2-amino-5-methoxy-phenyl)-(4-isopropyl-phenyl)-methanone | NC1=C(C=C(C=C1)OC)C(=O)C1=CC=C(C=C1)C(C)C | C17H19NO2
